US08835682B2
Preparation of (S)-((R)-quinuclidin-3-yl) 2-(tert-butoxycarbonylamino)-3-phenylpropanoate (I19)
To a solution of (S)-2-(tert-butoxycarbonylamino)-3-phenylpropanoic acid (1.03 g, 3.81 mmol) in THF (70 mL), are added DCC (1.03 g, 4.91 mmol), HOBt (660 mg, 4.90 mmol) and 3(R)-quinuclidinol (1.18 g, 9.48 mmol) and the resulting mixture is stirred for 12 hours at RT under nitrogen flowstream (LC-MS monitoring: complete conversion). The solvent is evaporated and the residue is partitioned between EtOAc (100 mL) and 2M K2CO3 (50 mL); the organic layer is separated, washed with brine and dried over Na2SO4. The resulting crude is purified by flash chromatography (DCM/MeOH=95/5, 0.1% NH3 (aq.)) to obtain 1.12 g of I19 (80% yield).

reactant | (S)-2-(tert-butoxycarbonylamino)-3-phenylpropanoic acid | 3.81 mmol, 1.03 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C14H19NO4
reactant | DCC | 4.91 mmol, 1.03 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 4.90 mmol, 660 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3(R)-quinuclidinol | 9.48 mmol, 1.18 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | (S)-((R)-quinuclidin-3-yl) 2-(tert-butoxycarbonylamino)-3-phenylpropanoate | 80% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)O[C@H]1CN2CCC1CC2)CC2=CC=CC=C2 | C21H30N2O4
